US05795892
36.0 g (292 mmol) 3-amino-5-methylphenol and 73.5 g (496 mmol) phthalic acid anhydride were heated for 2 h to boiling under reflux in 280 ml glacial acetic acid. Water was added, it was heated for a short time, allowed to cool and filtered. 59.6 g (80%) 2-(3-hydroxy-5-methyl-phenyl)-isoindole-1,3-dione of Fp 174°-175° C. was obtained.

reactant | 3-amino-5-methylphenol | 292 mmol, 36.0 g | NC=1C=C(C=C(C1)C)O | C7H9NO
reactant | phthalic acid anhydride | 496 mmol, 73.5 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | Water | O | H2O
solvent | acetic acid | 280 ml | C(C)(=O)O | C2H4O2
product | 2-(3-hydroxy-5-methyl-phenyl)-isoindole-1,3-dione | 59.6 g, 80% | OC=1C=C(C=C(C1)C)N1C(C2=CC=CC=C2C1=O)=O | C15H11NO3
